### ISSUE TITLE
Add a tactic for polynomial computations

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#64]
Add a tactic for routine polynomial computations, scope to be determined. Suggested items are:

* Polynomial equality
* Polynomial disequality
* n-th coefficient, leading coefficient

The `compute_degree` tactic already exists:

```
example : Polynomial.coeff (1 : ℤ[X]) 0 = 1 := by
  compute_degree!
```

Examples of new things a polynomial tactic could handle:

```
example : Polynomial.coeff ((X + 1 : ℤ[X]) ^ 2) 1 = 2 := by
  polynomial_nf

example : Monic ((X + 1 : ℤ[X]) ^ 3) := by
  polynomial_nf
```

See zulip: [Tactic that can compute things about polynomials](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/.22Missing.20Tactics.22.20list/near/420366276).

Spun out from: https://github.com/leanprover-community/mathlib4/issues/10361
